US05760018
a) 1-tert-Butoxycarbonyl-4-phenyl-4-hydroxymethyl piperidine
4-Phenyl-4-carboxy piperidine tosylate (10 g) was added portionwise to a solution of lithium aluminium hydride (1.52 g) in dry tetrahydrofuran (100 ml) at 0° C. After addition was complete the reaction mixture was warmed to reflux for 30 minutes and then allowed to cool to room temperature. The reaction was then quenched by addition of 2N sodium hydroxide solution until a white granular precipitate formed. The mixture was filtered and the filtrate extracted with ethyl acetate (200 ml), dried (MgSO4), filtered and solvent removed to afford a clear oil. The residual oil was taken up in dichloromethane (50 ml) and di-tert-butyl-dicarbonate (1.9 g) added. The resulting mixture was stirred at room temperature for 18 hours. The solvent was removed and the residual oil subjected to chromatography on silica gel to afford the title compound as a colourless oil. 1H NMR (360 MHz, CDCl3) δ 1.43 (9H, s), 1.75 (2H, td, J=11.0, 10 Hz), 2.17 (2H, m), 3.05 (2H, td, J=11.0, 1.0 Hz), 3.55 (2H, s), 3.73 (2H, m), 7.24-7.41 (5H, m); MS (Cl+) 292 (M+H)+.

reactant | 4-Phenyl-4-carboxy piperidine tosylate | 10 g | S(=O)(=O)(O)C1=CC=C(C)C=C1.C1(=CC=CC=C1)C1(CCNCC1)C(=O)O
reactant | lithium aluminium hydride | 1.52 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | di-tert-butyl-dicarbonate | 1.9 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 1-tert-Butoxycarbonyl-4-phenyl-4-hydroxymethyl piperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)(CO)C1=CC=CC=C1 | C17H25NO3
